* C:\Users\jeffr\Documents\GitHub\Uni_2023\734 Power electronics\Labs\Draft1.asc
L1 Iin 0 1µ
C1 Iin 0 159µ
R1 Iin 0 12
I1 0 Iin SINE(0 1 1k)
L2 Iin2 0 1µ
C2 Iin2 0 1µ
R2 Iin2 0 12
I2 0 Iin2 SINE(0 1 1k)
.tran 5m
;tran 5m
.backanno
.end
